US08029919B2
c) 10-[4-(N-Phenyl-2-benzimidazolyl)phenyl]phenothiazine 5,5-dioxide
A solution of 6.14 g of 10-[4-(N-phenyl-2-benzimidazolyl)phenyl]phenothiazine in 180 ml of methylene chloride was admixed at room temperature with 7.17 g (28.9 mmol) of 70% m-chloroperbenzoic acid with cooling and stirred at room temperature for 1 h. The solution was admixed with 60 ml of 10% KOH. After the methylene chloride had been removed, the suspension was diluted with 100 ml of hot water. The precipitate was filtered off with suction, washed with hot water and dried at 80° C. under reduced pressure. The crude product (4.82 g) was recrystallized from 48 ml of acetic acid. 3.02 g (46% of theory) of beige microcrystals having an m.p. of 286-288° C. were obtained.

reactant | 10-[4-(N-phenyl-2-benzimidazolyl)phenyl]phenothiazine | 6.14 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)N2C1=CC=CC=C1SC=1C=CC=CC21 | C31H21N3S
reactant | m-chloroperbenzoic acid | 28.9 mmol, 7.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | KOH | 60 ml | [OH-].[K+]
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 10-[4-(N-Phenyl-2-benzimidazolyl)phenyl]phenothiazine 5,5-dioxide | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)N2C1=CC=CC=C1S(C=1C=CC=CC21)(=O)=O | C31H21N3O2S
